US04727126
Preparation of 2-[N',N'-Bis(2-hydroxyethyl)ureido]ethyl Methacrylate
A one liter flask, under a N2 blanket, was charged with 105 gm of diethanolamine (1 mole) and 20 mg of methylhydroquinone. One molar of 2-isocyanatoethyl methacrylate (IEM) containing 2 ml of DBTDL (2% solution in toluene) was dropped slowly in the flask with moderate stirring over a period of 105 minutes, while the temperature was maintained at 20° to 25° C. with an ice-bath. The resulting viscous solution was stirred for an additional 60 minutes at 20° C. and then discharged. The product showed no NCO absorption in the IR spectrum and the NMR spectrum was consistent with the proposed structure. Gas chromatography also indicated the purity of the product to be greater than 95%. Additional inhibitor was added (to a total of 250 ppm) and the diol was stored in a freezer.

reactant | diethanolamine | 1 mole, 105 gm | N(CCO)CCO | C4H11NO2
reactant | methylhydroquinone | 20 mg | CC1=C(O)C=CC(=C1)O | C7H8O2
reactant | 2-isocyanatoethyl methacrylate | One molar | C(C(=C)C)(=O)OCCN=C=O | C7H9NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[N',N'-Bis(2-hydroxyethyl)ureido]ethyl Methacrylate | C(C(=C)C)(=O)OCCNC(=O)N(CCO)CCO | C11H20N2O5
